US06579983B1
5-Cyano-4-phenyl-N-[4-(2-p-toluenesulphonyloxyethyl)phenyl]pyrimidine-2-amine was prepared from 5-cyano-4-phenyl-N-[4-(2-hydroxyethyl)phenyl]pyrimidine-2-amine (3.30 g, 10.43 mmol) and 4-toluenesulphonylchloride (2.19 g, 11.47 mmol) as a pale yellow solid (3.91 g) m.p. 134-135°. δH (d6 DMSO) 8.69 (1H, s), 8.05 (2H, dd, J 6.0, 2.0 Hz), 7.72 (2H, d, J 8.3 Hz), 7.61-7.51 (6H, m), 7.29 (2H, d, J 8.1 Hz), 7.14 (2H, d, J 8.5 Hz), 4.21(2H, t, J 7.0 Hz), 2.95 (2H, t, J 7.0 Hz) and 2.41 (3H, s).

reactant | 5-cyano-4-phenyl-N-[4-(2-hydroxyethyl)phenyl]pyrimidine-2-amine | 10.43 mmol, 3.30 g | C(#N)C=1C(=NC(=NC1)NC1=CC=C(C=C1)CCO)C1=CC=CC=C1 | C19H16N4O
reactant | 4-toluenesulphonylchloride | 11.47 mmol, 2.19 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 5-Cyano-4-phenyl-N-[4-(2-p-toluenesulphonyloxyethyl)phenyl]pyrimidine-2-amine | C(#N)C=1C(=NC(=NC1)NC1=CC=C(C=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C26H22N4O3S
